US06133460
A solution of 7-hydroxy-3,4,8-trimethylcoumarin (5.19 g, 25.4 mmol) was refluxed in acetic anhydride (10 mL) for 1.5 hours. The solution was slowly poured into ice water (200 mL) and the resulting solid was filtered, then rinsed with water to yield 7-acetoxy-3,4,8-trimethylcoumarin, a beige solid (6.22 g, 99.5%). 1H NMR (CDCl3): δ 7.47 (d, J=8.6 Hz, 1H), 7.00 (d, J=8.7 Hz, 1H), 2.40 (s, 3H), 2.37 (s, 3H), 2.29 (s, 3H), 2.22 (s, 3H).

reactant | 7-hydroxy-3,4,8-trimethylcoumarin | 25.4 mmol, 5.19 g | OC1=CC=C2C(=C(C(OC2=C1C)=O)C)C | C12H12O3
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 7-acetoxy-3,4,8-trimethylcoumarin | C(C)(=O)OC1=CC=C2C(=C(C(OC2=C1C)=O)C)C | C14H14O4
